US05776699
Ethyl (E,E,E)-3-methyl-7-(5,6-dihydro-5,5-dimethyl-8-(4-methylphenyl)-2-naphthalenyl)-2,4,6-octatrienoate (Compound 51)
To a cold (-78° C.) solution of diethyl-(E)-3-ethoxycarbonyl-2-methylallylphosphonate [prepared in accordance with J. Org. Chem. 39: 821 (1974)] 264.0 mg, (1.00 mmol) in THF (2 ml) was added 26.0 mg (0.41 mmol, 0.65 ml)of n-butyllithium in hexanes (1.6M solution) followed immediately by the addition of (E)-3-(5,6-dihydro-5,5-dimethyl-8-(4-methylphenyl)-2-naphthalen-yl)-2-butenal (Compound X) 82.0 mg, 0.26 mmol) in THF (3 ml). After 1 hour, the reaction mixture was diluted with ether (60 ml), washed with water (5 ml), saturated aqueous NaCl (5 ml) and dried over MgSO4. After removal of the solvents under reduced pressure, the title compound was isolated as an oil by column chromatography (5% EtOAc/hexanes, followed by HPLC using 1% EtOAc/hexanes). 1H NMR (acetone-d6): δ 7.36-7.43 (2H, m), 7.18-7.27 (4H, m), 7.17 (1H, d, J=1.7 Hz), 7.08 (1H, dd, J=11.2, 15.2 Hz), 6.46 (1H, d, J=11.2 Hz), 6.38 (1H, d, J=15.2 Hz), 5.98 (1H, t, J=4.7 Hz), 5.78 (1H, s), 4.10 (2H, q, J=7.1 Hz), 2.35 (3H, s), 2.33 (3H, s), 2.32 (2H, d, J=4.7 Hz), 2.12 (3H, s), 1.31 (6H, s), 1.22 (3H, t, J=7.1 Hz).

reactant | diethyl-(E)-3-ethoxycarbonyl-2-methylallylphosphonate | 1.00 mmol, 264.0 mg | C(C)C(\C(=C\C(=O)OCC)\C)(P([O-])([O-])=O)CC
reactant | n-butyllithium | 0.41 mmol, 0.65 ml, 26.0 mg | C(CCC)[Li]
reactant | (E)-3-(5,6-dihydro-5,5-dimethyl-8-(4-methylphenyl)-2-naphthalen-yl)-2-butenal | 0.26 mmol, 82.0 mg | CC1(C=2C=CC(=CC2C(=CC1)C1=CC=C(C=C1)C)/C(=C/C=O)/C)C | C23H24O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ether | 60 ml | CCOCC | C4H10O
product | Ethyl (E,E,E)-3-methyl-7-(5,6-dihydro-5,5-dimethyl-8-(4-methylphenyl)-2-naphthalenyl)-2,4,6-octatrienoate | C\C(=C/C(=O)OCC)\C=C\C=C(/C)\C1=CC=2C(=CCC(C2C=C1)(C)C)C1=CC=C(C=C1)C | C30H34O2
